US04885022
(3) Methyl 3-amino-2-methyl-6-methylthiobenzoate
To a solution comprising 39.5 g of sodium sulfide nonahydrate and 110 ml of water, a solution comprising 32.9 g of methyl 3-amino-2-methyl-6-thiocyanobenzoate and 300 ml of ethanol was dropwise added. The mixture was stirred at room temperature for 1.5 hours, and 24.0 g of methyl iodide was dropwise added under cooling with ice. The mixture was stirred further at room temperature for 2 hours and then concentrated under reduced pressure. A saturated sodium chloride aqueous solution was added thereto, and the mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain 30.1 g of the desired product as an oily substance.

reactant | sodium sulfide nonahydrate | 39.5 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | water | 110 ml | O | H2O
reactant | methyl 3-amino-2-methyl-6-thiocyanobenzoate | 32.9 g | NC=1C(=C(C(=O)OC)C(=CC1)SC#N)C | C10H10N2O2S
reactant | methyl iodide | 24.0 g | CI | CH3I
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | Methyl 3-amino-2-methyl-6-methylthiobenzoate | 30.1 g | NC=1C(=C(C(=S)OC)C(=CC1)C)C | C10H13NOS
